US04062864
3-(Dimethylamino)-7-fluoro-1,2,3,4-tetrahydrocarbazole
A solution of 35.5 g. of dimethylaminocyclohexanone hydrochloride and 34.5 g. of 3-fluorophenylhydrazine hydrochloride in 500 ml. of absolute ethyl alcohol was heated at reflux for twenty hours and then cooled in an ice bath. The resulting crystals were collected by filtration, suspended in chloroform, and treated with dilute potassium hydroxide. The chloroform layer was separated and evaporated to dryness under reduced pressure to give, after recrystallization from isopropyl alcohol, 31.5 g. of 3-(dimethylamino)-7-fluoro-1,2,3,4-tetrahydrocarbazole, m.p. 174°-176° C.

reactant | dimethylaminocyclohexanone hydrochloride | Cl.CN(C)C1C(CCCC1)=O
reactant | 3-fluorophenylhydrazine hydrochloride | Cl.FC=1C=C(C=CC1)NN
solvent | ethyl alcohol | C(C)O | C2H6O
product | 3-(Dimethylamino)-7-fluoro-1,2,3,4-tetrahydrocarbazole | CN(C1CCC=2NC3=CC(=CC=C3C2C1)F)C | C14H17FN2
